US08168802B2
A solution of 5-amino-1,2-dimethyl-1H-imidazole-4-carbonitrile (8.5 g, 62 mmol) in bromoform (51 mL) was cooled with an ice water bath, and tert-butyl nitrite (12.87 g, 124.8 mmol) was added dropwise. The reaction was heated on a steam bath for 30 minutes, allowed to cool, and then refrigerated. The solution was decanted to separate it from a precipitate, and then the solution was purified by column chromatography on silica gel (eluting with ethyl acetate) to provide 5.2 g (42%) of 5-bromo-1,2-dimethyl-1H-imidazole-4-carbonitrile as a bright orange solid.

reactant | 5-amino-1,2-dimethyl-1H-imidazole-4-carbonitrile | 62 mmol, 8.5 g | NC1=C(N=C(N1C)C)C#N | C6H8N4
reactant | tert-butyl nitrite | 124.8 mmol, 12.87 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | bromoform | 51 mL | C(Br)(Br)Br | CHBr3
product | 5-bromo-1,2-dimethyl-1H-imidazole-4-carbonitrile | 5.2 g, 42% | BrC1=C(N=C(N1C)C)C#N | C6H6BrN3
